US07807673B2
Step D: N-{3-[3-(2-{[3-(aminomethyl)phenyl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2-(3-thienyl)acetamide (title compound)
To a solution of 2,2,2-trifluoro-N-[(3-{[4-(2-{3-[(3-thienylacetyl)amino]phenyl}-pyrazolo[1,5-a]pyridin-3-yl)-2-pyrimidinyl]amino}phenyl)methyl]acetamide (87 mg, 0.14 mmol) in THF (2 mL) was added LiOH hydrate (12 mg, 0.28 mmol) in water (0.5 mL). The solution was heated to 50° C. for 1.5 h, and then diluted with DCM, washed with 1N Na2CO3, dried over Na2SO4, and concentrated to generate the title compound in 83% yield. 1H NMR (400 MHz, d6-DMSO) 610.29 (s, 1H), 9.50 (s, 1H), 8.83 (d, J=6.8 Hz, 1H), 8.53 (d, J=8.8 Hz, 1H), 8.24 (d, J=5.2 Hz, 1H), 7.89 (s, 1H), 7.74-7.77 (m, 2H), 7.40-7.56 (m, 4H), 7.08-7.32 (m, 5H), 6.95 (d, J=7.5 Hz, 1H), 6.46 (d, J=5.1 Hz, 1H), 3.67 (s, 2H), 3.66 (s, 2H). ES-LC/MS m/z=532 [M+H]+.

reactant | 2,2,2-trifluoro-N-[(3-{[4-(2-{3-[(3-thienylacetyl)amino]phenyl}-pyrazolo[1,5-a]pyridin-3-yl)-2-pyrimidinyl]amino}phenyl)methyl]acetamide | 0.14 mmol, 87 mg | FC(C(=O)NCC1=CC(=CC=C1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C2=CC(=CC=C2)NC(CC2=CSC=C2)=O)(F)F | C32H24F3N7O2S
reactant | LiOH hydrate | 0.28 mmol, 12 mg | O[Li].O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-{3-[3-(2-{[3-(aminomethyl)phenyl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2-(3-thienyl)acetamide | 83% yield | NCC=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(CC2=CSC=C2)=O | C30H25N7OS
